US07049318B2
2-(2 (S)-Amino-3-phenyl-propylamino)-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one:
A solution of 3-methyl-2-methylsulfanyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one (0.31 mmol) in dimethylformamide (DMF) was added 3-phenyl-propane-1,2 (S)-diamine (0.92 mmol) and stirred overnight at room temperature. The DMF was removed under vacuum, and the product purified on silica as a mixture of isomers. M+1=381.

reactant | 3-methyl-2-methylsulfanyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.31 mmol | CN1C(=NC(=C(C1=O)[N+](=O)[O-])C1=CC=NC=C1)SC | C11H10N4O3S
reactant | 3-phenyl-propane-1,2 (S)-diamine | 0.92 mmol | C1(=CC=CC=C1)C[C@@H](CN)N | C9H14N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2 (S)-Amino-3-phenyl-propylamino)-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | N[C@H](CNC1=NC(=C(C(N1C)=O)[N+](=O)[O-])C1=CC=NC=C1)CC1=CC=CC=C1 | C19H20N6O3
